US06420365B1
A solution of 25.0 g (139.0 mmol) 3-(2-methoxyphenyl)propionic acid in 250 mL ethanol is treated at 0° C. with 5.0 mL concentrated sulfuric acid. The reaction mixture is heated to reflux for 2 hr. The reaction mixture is cooled to room temperature and volatiles removed by rotary evaporation. The residue is diluted with 250 mL dichloromethane, washed with 200 mL water, 200 mL sat. NaHCO3, and 200 mL brine. The resulting organic layer is dried over anhydrous Na2SO4 and the solvent removed in vacuo to yield ethyl 3-(2-methoxyphenyl)propanoate, 28 g, as a tan oil.

reactant | 3-(2-methoxyphenyl)propionic acid | 139.0 mmol, 25.0 g | COC1=C(C=CC=C1)CCC(=O)O | C10H12O3
reactant | sulfuric acid | 5.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 250 mL | C(C)O | C2H6O
product | ethyl 3-(2-methoxyphenyl)propanoate | COC1=C(C=CC=C1)CCC(=O)OCC | C12H16O3
